US06187777B1
2-Methyl-6-(2-methylcyclopent-1-eneyl)-4-piperidyl pyrrolo[3,2-d]pyrimidine Hydrochloride.
Using the method described in Example 30 by employing [1-(2-methylcyclopent-1-enyl)vinyl]pyrrolidine (freshly prepared before use) (2.41 g, 13.6 mmol), 2-methyl-4,6-dichloro-5-nitropyrimidine (Example 76(b)) (2.80 g, 13.6 mmol), N,N-diisopropyl ethyl amine (Aldrich Chemical Company) (2.4 mL, 13.6 mmol), piperidine (Aldrich Chemical Company) (2.1 mL, 21.7 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (41 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 552 mg (14%) of the free base as a pale yellow colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.62 (br s, 6), 1.85-1.90 (m, 2), 1.93 (s, 3), 2.39 (s, 3), 2.79 (br s, 2), 3.30 (br s, 2), 3.67 (br s, 4), 6.23 (s, 1), 10.36 (s, 1). MS m/z: 297 (M+1). To a hot solution of 2-methyl-6-(2-methylcyclopent-1-eneyl)-4-piperidylpyrrolo[3,2-d]pyrimidine (0.55 g, 1.86 mmol) in 5:1 EtOAc:MeOH (30 mL) was added 1M etheral HCl (Aldrich Chemical Company) (1.85 mL, 1.85 mmol). Crystallization occurred as the mixture cooled and the precipitate was collected by filtration, washed with EtOAc (1×5 mL), Et2O (3×10 mL) and dried under vacuum to give 580 mg (94%) of the title compound as a white colored solid. Mp: 224.5-226° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.69 (br s, 6), 1.89-1.93 (m, 5), 2.50 (s, 3), 2.82 (br s, 2), 3.31 (s, 2), 3.99 (br s, 4), 6.39 (s, 1), 11.49 (s, 1), 14.34 (s, 1). MS m/z: 297 (M+1). Anal. Calcd for C18H24N4.HCl: C, 64.95; H, 7.57; N, 16.83; Cl, 10.65. Found C, 64.72; H, 7.63; N, 16.65; Cl, 10.37.

reactant | 2-methyl-6-(2-methylcyclopent-1-eneyl)-4-piperidylpyrrolo[3,2-d]pyrimidine | 1.86 mmol, 0.55 g | CC1NC(CC(C1)C1=NC=C2C(N1)=CC=N2)C2=C(CCC2)C | C18H24N4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 1.85 mmol, 1M, 1.85 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 2-Methyl-6-(2-methylcyclopent-1-eneyl)-4-piperidyl pyrrolo[3,2-d]pyrimidine Hydrochloride | 580 mg, 94% | Cl.CC1NC(CC(C1)C1=NC=C2C(N1)=CC=N2)C2=C(CCC2)C | InChI=1S/C18H24N4.ClH/c1-11-4-3-5-14(11)16-9-13(8-12(2)21-16)18-20-10-17-15(22-18)6-7-19-17;/h6-7,10,12-13,16,21H,3-5,8-9H2,1-2H3,(H,20,22);1H
